US03995052
1-(Iodomethyl)-1-methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran (X; R1 = CH3, R2, R3, R4, R5, R6 and R7 = H, X = O and Y1 = CH2 l)
To a solution of indene-3-ethanol (15 g) in 150 ml of benzene, iodoacetone (12 g) is added. The mixture is heated at reflux with 5 ml of boron trifluoride-etherate and hydrated alkali-aluminum silicate (Molecular Sieves No. 4). After a total of 2 hours the reaction is cooled, filtered and washed with 5% sodium bicarbonate, water and dried over sodium sulfate. Evaporation under reduced pressure affords an oil. This oil is purified by chromatography on silica gel. Elution with benzene and concentration of the eluate gives the title compound, identical to the compound of the same name described in Example 463.

reactant | indene-3-ethanol | 15 g | C1C=C(C2=CC=CC=C12)CCO | C11H12O
reactant | iodoacetone | 12 g | ICC(C)=O | C3H5IO
reactant | boron trifluoride-etherate | 5 ml | B(F)(F)F.CCOCC
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(Iodomethyl)-1-methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran | ICC1(OCCC2=C1CC=1C=CC=CC12)C | C14H15IO
